US08067408B2
N-[(3-Bromo-4-methylphenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide (0.032 g, 0.05 mmol), 1,1-dimethylethyl (2S)-2-methyl-4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1-piperazinecarboxylate (0.0316 g, 0.076 mmol), potassium carbonate (0.021 g, 0.15 mmol), and tetrakis(triphenylphosphine)palladium(0) (0.0029 g, 0.0025 mmol) were combined in dioxane (1.5 mL) and water (0.5 mL). The mixture was microwaved at 150° C. for 30 min. Then the reaction mixture was diluted with EtOAc and washed with H2O 3×. The organic phase was dried over anhydrous Na2SO4, filtered and concentrated. The residue was purified via CombiFlash on a 12 g column eluted with 0-10% MeOH/CH2Cl2 to give 1,1-dimethylethyl (2S)-4-[(5′-{[({3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]phenyl}carbonyl)amino]methyl}-2′-methyl-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate. This was taken up in 10% TFA/CH2Cl2 (2 mL) and stirred at room temperature for 3 h. The solvents were pumped off, and the crude product was purified using a Gilson HPLC with a TFA system. The purified compound was taken up in EtOAc, washed 3× with 2.5 N NaOH, 1× with brine, dried over anhydrous Na2SO4, filtered, and concentrated to give the title compound as a white solid. LC-MS m/z 743.2 (M+H)+, 1.40 min (ret time); mp 115-118° C. Analytical HPLC shows 100% purity, (ret time 10.211 min).

reactant | N-[(3-Bromo-4-methylphenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | 0.05 mmol, 0.032 g | BrC=1C=C(C=CC1C)CNC(=O)C1=CC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C32H37BrN6O3
reactant | 1,1-dimethylethyl (2S)-2-methyl-4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1-piperazinecarboxylate | 0.076 mmol, 0.0316 g | C[C@@H]1N(CCN(C1)CC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C(=O)OC(C)(C)C | C23H37BN2O4
reactant | potassium carbonate | 0.15 mmol, 0.021 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.5 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0025 mmol, 0.0029 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,1-dimethylethyl (2S)-4-[(5′-{[({3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]phenyl}carbonyl)amino]methyl}-2′-methyl-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C=CC2)C(=O)NCC=2C=CC(=C(C2)C2=CC(=CC=C2)CN2C[C@@H](N(CC2)C(=O)OC(C)(C)C)C)C)CC | C49H62N8O5
